US07829578B1
Chemical synthesis of 3-(6,6,6-trifluorohexyloxy)-6-chloroacridone
3-hydroxy-6-chloroacridone (594 mg) was stirred in 10 ml of methanol, and 5 ml of methanolic KOH (30 mg/ml) was added (1 equiv. base), whereupon complete dissolution occurred. 1-Bromo-5-trifluoromethylpentane (2.03 g, 3 equiv.) was added and the solution heated at 70° C. overnight, forming a fine solid precipitate; after cooling, 0.35 g of pale yellow powder was collected by filtration. When the filtrate is heated another 2 days, the same quantity of product may be isolated in addition. The crude product was crystallized from methanol. Analogous procedures can be applied for preparation of compounds with the O(CH2)3CF3, O(CH2)4CF3, O(CH2)7CF3, and O(CH2)10CF3— side chains and including aromatic ketone derivatives bearing O(CH2)C2F5 and O(CH2)C3F7 side chains.

reactant | 3-hydroxy-6-chloroacridone | 594 mg | OC=1C=CC=2C(C3=CC=C(C=C3NC2C1)Cl)=O | C13H8ClNO2
reactant | KOH | 5 ml | [OH-].[K+]
reactant | 1-Bromo-5-trifluoromethylpentane | 2.03 g, 3 equiv. | BrCCCCCC(F)(F)F | C6H10BrF3
solvent | methanol | 10 ml | CO | CH4O
product | 3-(6,6,6-trifluorohexyloxy)-6-chloroacridone | FC(CCCCCOC=1C=CC=2C(C3=CC=C(C=C3NC2C1)Cl)=O)(F)F | C19H17ClF3NO2
